US06638926B2
[4-(4-Methylpiperidin-1-yl)-pyrimidin-2-yl]-(5-methyl-2H-pyrazol-3-yl)-amine.
To a solution of 2-chloro-4-(4-methylpiperidin-1-yl)-pyrimidine (prepared using a procedure similar to the one reported in Eur. J. Med. Chem., 26(7) 729(1991))(222 mg, 1.05 mmol) in BuOH (5 mL) was added 3-amino-5-methyl-2H-pyrazole (305 mg, 3.15 mmol) and the reaction mixture was then heated under reflux overnight. The solvent was evaporated and the residue dissolved in a mixture ethanol/water (1/3, 4 mL). Potassium carbonate (57 mg, 0.41 mmol) was added and the mixture was stirred at room temperature for 2 hours. The resulting suspension was filtered, washed with water twice and rinsed with ether twice to give the title compound as a white solid (143 mg, 50%): mp 193-195° C.; 1H NMR (DMSO) δ0.91 (3H, d), 1.04 (2H, m), 1.67 (3H, m), 2.16 (3H, s), 2.83 (2H, t), 4.31 (2H, m), 6.19 (2H, m), 7.87 (1H, d), 8.80 (1H, br s), 11.71 (1H, s); IR (solid) 1627, 1579, 1541, 1498, 1417, 1388, 1322, 1246; MS 273.3(M+H)+.

reactant | 2-chloro-4-(4-methylpiperidin-1-yl)-pyrimidine | ClC1=NC=CC(=N1)N1CCC(CC1)C | C10H14ClN3
reactant | 3-amino-5-methyl-2H-pyrazole | 3.15 mmol, 305 mg | NC=1NN=C(C1)C | C4H7N3
reactant | Potassium carbonate | 0.41 mmol, 57 mg | C([O-])([O-])=O.[K+].[K+]
solvent | BuOH | 5 mL | C(CCC)O | C4H10O
product | [4-(4-Methylpiperidin-1-yl)-pyrimidin-2-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 143 mg, 50% | CC1CCN(CC1)C1=NC(=NC=C1)NC=1NN=C(C1)C | C14H20N6
